US03947466
A stirred solution of acetic anhydride (25.3 ml) and 97% formic acid (10.6 ml) is kep at ambient temperature (25°) for 30 minutes, cooled in an ice bath and treated with 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline (12.24 g, 0.0447 mole). The solution is kept at ambient temperature for 18 hours, diluted with acetic acid (25 ml), warmed to the reflux temperature during 1 hour and refluxed for 1.5 hours. The solution is concentrated in vacuo, and the residue is mixed with cold water, made alkaline with sodium hydroxide and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is crystallized from ethylacetate to give 7.76 g of 5-chloro-2-(4H-1,2,4-triazol-4-yl)-benzophenone of melting point 184°-186° C., 0.971 g of melting point 182.5°-184° C., and 0.144 of melting point 181°-182° C.

reactant | acetic anhydride | 25.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 10.6 ml | C(=O)O | CH2O2
reactant | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline | 0.0447 mole, 12.24 g | NN1C=NC2=CC=C(C=C2C1(C1=CC=CC=C1)O)Cl | C14H12ClN3O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-2-(4H-1,2,4-triazol-4-yl)-benzophenone | 7.76 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C=NN=C1 | C15H10ClN3O
